US07119109B2
c) (R)-4Azido-1,1,1-trifluoro-2-butanol
A solution of (R)-1,1,1-trifluoro-4-iodo-2-butanol (3.30 g, 13.0 mmol) in DMSO (22 mL) was treated with sodium azide (0.930 g, 14.3 mmol) at ambient temperature, followed by heating at 50° C. for 20 h. The mixture was diluted with cold water (250 mL) and extracted with diethyl ether. The combined organic extracts were washed (brine), dried, and evaporated without heat to give the product as a pale yellow oil (2.20 g, 100%).

reactant | (R)-1,1,1-trifluoro-4-iodo-2-butanol | 13.0 mmol, 3.30 g | FC([C@@H](CCI)O)(F)F | C4H6F3IO
reactant | sodium azide | 14.3 mmol, 0.930 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 22 mL | CS(=O)C | C2H6OS
solvent | water | 250 mL | O | H2O
product | (R)-4Azido-1,1,1-trifluoro-2-butanol | 2.20 g, 100% | N(=[N+]=[N-])CC[C@H](C(F)(F)F)O | C4H6F3N3O
